US06506901B2
(2S)-1-(2-Methyl-1H-indol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 2-methyl-4-[(2S)-oxiranylmethoxy]-indole (0.150 g, 0.74 mmol) and 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine (0. 250 g, 1.2 mmol) of according to the procedure used for Example 2 to give 0.110 g of the title compound as a light yellow solid.

reactant | 2-methyl-4-[(2S)-oxiranylmethoxy]-indole | 0.74 mmol, 0.150 g | CC=1NC2=CC=CC(=C2C1)OC[C@H]1OC1 | C12H13NO2
reactant | 4-aminomethyl-1-(3,3,3-trifluoropropyl)-piperidine | 1.2 mmol, 250 g | NCC1CCN(CC1)CCC(F)(F)F | C9H17F3N2
product | (2S)-1-(2-Methyl-1H-indol-4-yloxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.110 g | CC=1NC2=CC=CC(=C2C1)OC[C@H](CNCC1CCN(CC1)CCC(F)(F)F)O | C21H30F3N3O2
